US08080546B2
Step 4: 1-(3-Fluorophenyl)-4-hydroxy-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (Compound 13)
A solution of diisopropylamine (3.45 mL, 24.4 mmol) in 15 mL THF under argon at 0° C. was treated with n-butyllithium (14.7 mL of 1.6 M solution in hexanes, 23.5 mmol) and stirred at this temperature for 30 min. The freshly prepared LDA was added dropwise to a solution of ethyl 1-(3-fluorophenyl)-5-(N-methylacetamido)-1H-pyrazole-4-carboxylate (2.87 g, 9.40 mmol) in 5 mL of THF at −78° C. After the reaction mixture was gradually warmed to RT in 4 h, it was partitioned between 1N NaOH and 45 mL of ether. The ether layer was separated and discarded; the aqueous layer was acidified with 2 N HCl, and extracted three times with EtOAc. The combined EtOAc layers were washed with brine, dried over MgSO4, and concentrated to yield the title compound as a tan crystalline solid. MS (ESI, pos.ion) m/z: 260.1 (M+1). The crude material was used in the next step without further purification.

reactant | diisopropylamine | 24.4 mmol, 3.45 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 23.5 mmol, 1.6 M, 14.7 mL | C(CCC)[Li]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | ethyl 1-(3-fluorophenyl)-5-(N-methylacetamido)-1H-pyrazole-4-carboxylate | 9.40 mmol, 2.87 g | FC=1C=C(C=CC1)N1N=CC(=C1N(C(C)=O)C)C(=O)OCC | C15H16FN3O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(3-Fluorophenyl)-4-hydroxy-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | FC=1C=C(C=CC1)N1N=CC2=C1N(C(C=C2O)=O)C | C13H10FN3O2
